US04963564
N-[2-Hydroxy-5-[1-hydroxy-2-[[6-[4-(2-quinolinyl)butoxy]hexyl]amino]ethyl]phenyl]methanesulphonamide, benzoate salt (1:1)
A mixture of 2-[4-[(6-bromohexyl)oxy]butyl]quinoline (900 mg), N-[5-(2-amino-1-hydroxyethyl)-2-hydroxyphenyl]methanesulphonamide (800 mg) and DEA (0.52 ml) in DMF (50 ml) was heated at 100° for 4 h, cooled, and the solvent evaporated in vacuo. The residue was purified by FCC eluting with System A (39:10:1) and (34:15:1). A solution of the resulting product in methanol (10 ml) was treated with benzoic acid (61.3 mg), the solution evaporated in vacuo and triturated with dry ether (×2) to afford the title compound as a fawn powder (250 mg) m.p. 155°-157°.

reactant | 2-[4-[(6-bromohexyl)oxy]butyl]quinoline | 900 mg | BrCCCCCCOCCCCC1=NC2=CC=CC=C2C=C1 | C19H26BrNO
reactant | N-[5-(2-amino-1-hydroxyethyl)-2-hydroxyphenyl]methanesulphonamide | 800 mg | NCC(O)C=1C=CC(=C(C1)NS(=O)(=O)C)O | C9H14N2O4S
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | N-[2-Hydroxy-5-[1-hydroxy-2-[[6-[4-(2-quinolinyl)butoxy]hexyl]amino]ethyl]phenyl]methanesulphonamide, benzoate salt | 250 mg | C(C1=CC=CC=C1)(=O)O.OC1=C(C=C(C=C1)C(CNCCCCCCOCCCCC1=NC2=CC=CC=C2C=C1)O)NS(=O)(=O)C | InChI=1S/C28H39N3O5S.C7H6O2/c1-37(34,35)31-26-20-23(14-16-27(26)32)28(33)21-29-17-7-2-3-8-18-36-19-9-6-11-24-15-13-22-10-4-5-12-25(22)30-24;8-7(9)6-4-2-1-3-5-6/h4-5,10,12-16,20,28-29,31-33H,2-3,6-9,11,17-19,21H2,1H3;1-5H,(H,8,9)
